US04962224
Step (3) Preparation of N-[[2-Butoxy-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine
Aqueous sodium hydroxide (2.5N, 2.7 mL, 1.2 eq) was added to a stirred solution of N-[[2-butoxy-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester (2.35 g, 5.50 mmol) in THF (22 mL) and methanol (6 mL) at room temperature. After 11/2 hours the organic solvents were removed and the residue was taken up in water (250 mL). The aqueous phase was acidified to pH 1 with 10% HCl, then extracted with ethyl acetate. The extracts were combined, dried over MgSO4, and concentrated to give a solid which was triturated with petroleum ether to provide the title compound as a white solid (1.57 g, 69%), m.p. 152°-155° C.

reactant | sodium hydroxide | 2.5N, 2.7 mL, 1.2 eq | [OH-].[Na+]
reactant | N-[[2-butoxy-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester | 5.50 mmol, 2.35 g | C(CCC)OC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC)C | C21H24F3NO5
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | N-[[2-Butoxy-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine | 1.57 g, 69% | C(CCC)OC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)O)C | C20H22F3NO5
